US05063061
9-[(4-acetyl-3-hydroxy-2-allylphenoxy)methyl]-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one.
The aqueous preparation of claim 1 in which the pyrido[1,2-a]pyrimidine compound is 9-[(4-acetyl-3-hydroxy-2-n-propylphenoxy)methyl]-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one; the polyoxyethylene sorbitan fatty acid ester is polyoxyethylene sorbitan monooleate; and the polyethylene glycol has a molecular weight of 400.

reactant | pyrido[1,2-a]pyrimidine | N1=C2N(CC=C1)C=CC=C2 | C8H8N2
reactant | 9-[(4-acetyl-3-hydroxy-2-n-propylphenoxy)methyl]-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one | C(C)(=O)C1=C(C(=C(OCC2=CC=CN3C2=NC=C(C3=O)C3=NN=NN3)C=C1)CCC)O | C21H20N6O4
product | 9-[(4-acetyl-3-hydroxy-2-allylphenoxy)methyl]-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one | C(C)(=O)C1=C(C(=C(OCC2=CC=CN3C2=NC=C(C3=O)C3=NN=NN3)C=C1)CC=C)O | C21H18N6O4
